US04199354
B. (3,5-dicarbomethoxy-4-nitrophenoxy)acetic acid
To a solution of 3.28 g. of tert-butyl-(3,5-dicarbomethoxy-4-nitrophenoxy)acetate in 20 ml. of benzene are added 100 mg. of p-toluenesulfonic acid monohydrate. The solution is stirred and refluxed for 30 min. After this time, the reaction is cooled and the precipitate collected. Yield 2.4 g.; m.p. 151°-152° C.

reactant | tert-butyl-(3,5-dicarbomethoxy-4-nitrophenoxy)acetate | C(C)(C)(C)OC(COC1=CC(=C(C(=C1)C(=O)OC)[N+](=O)[O-])C(=O)OC)=O | C16H19NO9
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (3,5-dicarbomethoxy-4-nitrophenoxy)acetic acid | C(=O)(OC)C=1C=C(OCC(=O)O)C=C(C1[N+](=O)[O-])C(=O)OC | C12H11NO9
